Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[O:5]=[N+:6]([O-:7])[c:8]1[cH:9][n:10]2[c:11]([n:12]1)[O:13][C@@H:14]([CH2:15][O:16][c:17]1[cH:18][cH:19][c:20]([N:21]3[CH2:26][CH2:25][NH:24][CH2:23][CH2:22]3)[cH:27][cH:28]1)[CH2:29][CH2:30]2>>[S:1]([CH3:2])(=[O:3])(=[O:4])[N:24]1[CH2:23][CH2:22][N:21]([c:20]2[cH:19][cH:18][c:17]([O:16][CH2:15][C@@H:14]3[O:13][c:11]4[n:10]([cH:9][c:8]([N+:6](=[O:5])[O-:7])[n:12]4)[CH2:30][CH2:29]3)[cH:28][cH:27]2)[CH2:26][CH2:25]1,[O:5]=[N+:6]([OH:7])[c:8]1[cH:9][n:10]2[c:11]([n:12]1)[O:13][C@@H:14]([CH2:15][O:16][c:17]1[cH:18][cH:19][c:20]([N:21]3[CH2:22][CH2:23][NH:24][CH2:25][CH2:26]3)[cH:27][cH:28]1)[CH2:29][CH2:30]2.[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[N:24]1[CH2:23][CH2:22][N:21]([c:20]2[cH:19][cH:18][c:17]([O:16][CH2:15][C@@H:14]3[O:13][c:11]4[n:10]([cH:9][c:8]([N+:6](=[O:5])[OH:7])[n:12]4)[CH2:30][CH2:29]3)[cH:28][cH:27]2)[CH2:26][CH2:25]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(24, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[c:4]([O:5][CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[c:13]([O:14][CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([C:23](=[O:24])[N:25]([CH3:26])[CH3:27])[n:28]1-[c:29]1[cH:30][cH:31][c:32]([O:33][CH3:34])[cH:35][cH:36]1.[CH3:37][CH2:38][NH2:39]>>[C:1](=[O:2])([c:3]1[c:4]([O:5][CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[c:13]([O:14][CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([C:23](=[O:24])[N:25]([CH3:26])[CH3:27])[n:28]1-[c:29]1[cH:30][cH:31][c:32]([O:33][CH3:34])[cH:35][cH:36]1)[NH:39][CH2:38][CH3:37],CC[O:101][C:1](=[O:2])[c:3]1[c:4]([O:5][CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[c:13]([O:14][CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([C:23](=[O:24])[N:25]([CH3:26])[CH3:27])[n:28]1-[c:29]1[cH:30][cH:31][c:32]([O:33][CH3:34])[cH:35][cH:36]1.[CH3:37][CH2:38][NH2:39]>>[C:1](=[O:2])([c:3]1[c:4]([O:5][CH2:6][c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[c:13]([O:14][CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22]([C:23](=[O:24])[N:25]([CH3:26])[CH3:27])[n:28]1-[c:29]1[cH:30][cH:31][c:32]([O:33][CH3:34])[cH:35][cH:36]1)[NH:39][CH2:38][CH3:37],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(39, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([N:5]([CH2:6][CH2:7][CH3:8])[CH2:9][c:10]2[cH:11][cH:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([S:18]([CH3:19])(=[O:20])=[O:21])[cH:22][cH:23]3)[n:24][cH:25]2)[CH2:26][CH2:27]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([N:5]([CH2:6][CH2:7][CH3:8])[CH2:9][c:10]2[cH:11][cH:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([S:18]([CH3:19])(=[O:20])=[O:21])[cH:22][cH:23]3)[n:24][cH:25]2)[CH2:26][CH2:27]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([N:5]([CH2:6][CH2:7][CH3:8])[CH2:9][c:10]2[cH:11][cH:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([S:18]([CH3:19])(=[O:20])=[O:21])[cH:22][cH:23]3)[n:24][cH:25]2)[CH2:26][CH2:27]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([N:5]([CH2:6][CH2:7][CH3:8])[CH2:9][c:10]2[cH:11][cH:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([S:18]([CH3:19])(=[O:20])=[O:21])[cH:22][cH:23]3)[n:24][cH:25]2)[CH2:26][CH2:27]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([Cl:10])[cH:11]1.[CH3:12][CH:13]([CH3:14])[C@@H:15]([CH3:16])[NH2:17]>>[C:1](=[O:2])([CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([Cl:10])[cH:11]1)[NH:17][C@@H:15]([CH:13]([CH3:12])[CH3:14])[CH3:16],[OH:101][C:1](=[O:2])[CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([Cl:10])[cH:11]1.[CH3:12][CH:13]([CH3:14])[C@@H:15]([CH3:16])[NH2:17].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9]([Cl:10])[cH:11]1)[NH:17][C@@H:15]([CH:13]([CH3:12])[CH3:14])[CH3:16],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (17, 1), ([1, 2], 2), (303, 17.1), ([17.1, 17], 17), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
